US06008243
As described in Example 1(a) for the preparation of 3-biphenyl-4-yl-furan, crude 4'-bromo-biphenyl-4-carbonitrile (200 mg, 0.775 mmol) and 3-furanboronic acid (see Thompson, W. J.; Gaudino, G. J. Org. Chem. 1984, 49, 5237-5243; 105 mg, 0.937 mmol) in MeOH (2 mL) were coupled to give a yellow solid, which was purified via preparative TLC. Elution with EtOAc:benzene (1:99) provided 100 mg (53%) of 4'-furan-3-yl-biphenyl-4-carbonitrile as a grey powder, mp 199-203° C. 1H NMR (CDCl3): δ 7.81 (bs, 1H), 7.72 (d, 4H, J=1.9 Hz), 7.61 (s, 4H), 7.51 (bs, 1H), 6.75 (s, 1H). IR (KBr): 2225, 1604, 1503, 1396, 1162, 1102, 1058 cm-1. Anal. Calculated for C17H11NO.0.3 EtOAc.0.2 C6H6 : C, 80.78; H, 5.05; N, 5.01. Found: C, 80.96; H, 4.88; N, 5.00.

reactant | 3-biphenyl-4-yl-furan | C1(=CC=C(C=C1)C1=COC=C1)C1=CC=CC=C1 | C16H12O
reactant | 4'-bromo-biphenyl-4-carbonitrile | 0.775 mmol, 200 mg | BrC1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C13H8BrN
reactant | 3-furanboronic acid | 0.937 mmol, 105 mg | O1C=C(C=C1)B(O)O | C4H5BO3
solvent | MeOH | 2 mL | CO | CH4O
product | 4'-furan-3-yl-biphenyl-4-carbonitrile | 100 mg, 53% | O1C=C(C=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C#N | C17H11NO
